US05475000
Preparation of 3-(1-methyl-1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine
A mixture of 4.28 g (0.02 moles) of 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine; 100 ml of dimethylformamide, 2.76 g (0.02 moles) of anhydrous potassium carbonate and 25 ml (0.04 moles) of methyl iodide was stirred at 75°-80° C. for 1 hour. The yellow suspension gradually dissolved and at the end of the reaction an orange-colored solution was obtained. The warm reaction mixture was filtered, cooled down and the precipitating crystals were collected. 2.3 g (50.4%) of the title compound were obtained, and crystallized from dimethylformamide to obtain white crystals, m.p.: 280°-282° C. (under decomposition).

reactant | 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine | 0.02 moles, 4.28 g | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
reactant | potassium carbonate | 0.02 moles, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.04 moles, 25 ml | CI | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(1-methyl-1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine | 2.3 g, 50.4% | CN1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C10H8N6O
